US08710043B2
Step-3. (S)—N—((S)-(3-Fluoropyridin-2-yl)(4-(trifluoromethyl)phenyl)methyl)-2-methylpropane-2-sulfinamide
To a stirred suspension of magnesium (170 g, 2365 mmol) in THF (1.35 L), was added 4-bromobenzotrifluoride (532 g, 2365 mmol). Stirring was continued for 4 h (caution: slightly exothermic, cooled with a water bath if needed). The solution was cannulated to a stirred solution of (S,E)-N-((3-fluoro-pyridin-2-yl)methylene)-2-methylpropane-2-sulfinamide (270 g, 1182 mmol) in THF (1.3 L) at −78° C. dropwise. Stirring was continued for 1 h. The progress of the reaction was monitored by TLC (50% EtOAc in petroleum ether). After completion of the reaction, the reaction mixture was quenched with saturated aqueous NH4Cl (2.5 L), and the solution was extracted with Et2O (5×500 mL). The organic layers were combined, dried over Na2SO4, concentrated, and purified by column chromatography using silica (100-200 mesh) with 25-30% EtOAc in petroleum ether as eluent to give the title compound as a brown oil. 1H-NMR (400 MHz, CDCl3): δ ppm 8.45 (d, J=3.6 Hz, 1H), 7.73-7.78 (m, 1H), 7.71 (d, J=8.4 Hz, 2H), 7.63 (m, 2H), 7.43-7.48 (m, 1H), 6.23 (d, J=6.8 Hz, 1H), 5.99 (d, J=6.8 Hz, 1H), 1.36 (s, 9H). MS (ESI pos. ion) m/z: 375.1 (M-O and t-Bu).

reactant | magnesium | 2365 mmol, 170 g | [Mg] | Mg
reactant | 4-bromobenzotrifluoride | 2365 mmol, 532 g | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | (S,E)-N-((3-fluoro-pyridin-2-yl)methylene)-2-methylpropane-2-sulfinamide | 1182 mmol, 270 g | FC=1C(=NC=CC1)\C=N\[S@@](=O)C(C)(C)C | C10H13FN2OS
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 1.35 L | C1CCOC1 | C4H8O
solvent | THF | 1.3 L | C1CCOC1 | C4H8O
product | (S)—N—((S)-(3-Fluoropyridin-2-yl)(4-(trifluoromethyl)phenyl)methyl)-2-methylpropane-2-sulfinamide | FC=1C(=NC=CC1)[C@@H](N[S@@](=O)C(C)(C)C)C1=CC=C(C=C1)C(F)(F)F | C17H18F4N2OS
